US06635635B2
Step A: 5,5-Dioxo-2,3,3a,4,-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]-benzothiadiazine-7-amine
37 mmol of ammonium formate and 300 mg of 10% Pd/C are added to 3.71 mmol of 5,5-dioxo-7-nitro-2,3,3a,4,-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]-benzothiadiazine suspended in 100 ml of methanol. After 90 minutes' stirring at reflux, the catalyst is filtered off while hot and rinsed with methanol. The filtrate is evaporated and the residue is taken up in water. The expected product is obtained by filtering off the precipitate.

reactant | ammonium formate | 37 mmol | C(=O)[O-].[NH4+]
reactant | 5,5-dioxo-7-nitro-2,3,3a,4,-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]-benzothiadiazine | 3.71 mmol | O=S1(NC2N(C3=C1C=C(C=C3)[N+](=O)[O-])CCC2)=O | C10H11N3O4S
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 5,5-Dioxo-2,3,3a,4,-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]-benzothiadiazine-7-amine | O=S1(NC2N(C3=C1C=C(C=C3)N)CCC2)=O | C10H13N3O2S
